US05516774
Ethyl10-[4-[(2,4-dichlorobenzoyl)amino]-3-methylbenzoyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carboxylate
To a solution of 0.30 g of ethyl 10,11-di-hydro-10-(4-amino-3-methylbenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carboxylate in 20 ml of methylene chloride is added 0.15 g of N,N-diisopropylethylamine and 0.24 g of 2,4-dichlorobenzoyl chloride. The reaction mixture is stirred at room temperature for 18 hours and washed with water, saturated NaHCO3 and dried with Na2SO4. The organic layer is passed through a pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 0.24 g of solid, m.p. 174°-184° C.

reactant | ethyl 10,11-di-hydro-10-(4-amino-3-methylbenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carboxylate | 0.30 g | NC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(=O)OCC)C=C1)C | C23H23N3O3
reactant | N,N-diisopropylethylamine | 0.15 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dichlorobenzoyl chloride | 0.24 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl10-[4-[(2,4-dichlorobenzoyl)amino]-3-methylbenzoyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carboxylate | 0.24 g | C(C)OC(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(C3=CC(=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)C)=O | C30H25Cl2N3O4
